US09359336B2
To the solution of N-(3-((5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-methylfuran-2-carboxamide (71 mg, 0.131 mmol, 1 eq) in anhydrous THF (2.6 mL) under nitrogen atmosphere at 0° C. was added dropwise a solution of tetrabutylammonium fluoride (1.0 M in THF, 0.393 mL, 3 eq). The clear reaction solution was stirred at 0° C. using an ice-bath for 3 hours. The solution was then partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was isolated, washed with aqueous ammonium chloride, brine, and dried with anhydrous sodium sulfate. The upper clear liquor was decanted, concentrated, and the oily residue was loaded onto silica and chromatographed (EtOAc-Hex 1:4 to 4:1) to yield N-[3-({5-[2-(3-hydroxypropyl)-2H-tetrazol-5-yl]pyridin-3-yl}ethynyl)phenyl]-3-methyl-2-furamide as a white solid in the amount of 28 mg.

reactant | N-(3-((5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-methylfuran-2-carboxamide | 0.131 mmol, 71 mg, 1 eq | [Si](C)(C)(C(C)(C)C)OCCCN1N=C(N=N1)C=1C=C(C=NC1)C#CC=1C=C(C=CC1)NC(=O)C=1OC=CC1C | C29H34N6O3Si
reactant | tetrabutylammonium fluoride | 1.0 M, 0.393 mL, 3 eq | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
product | N-[3-({5-[2-(3-hydroxypropyl)-2H-tetrazol-5-yl]pyridin-3-yl}ethynyl)phenyl]-3-methyl-2-furamide | OCCCN1N=C(N=N1)C=1C=C(C=NC1)C#CC=1C=C(C=CC1)NC(=O)C=1OC=CC1C | C23H20N6O3
